US05254716
A mixture of 4.17 grams (11.1 mmol) of 4-(2-[2-thiocarbonyl-3-carboethoxypyrrolidin-4-yl]ethyl)benzoic acid 2,2-dimethylethyl ester and 20 ml of trifluoroacetic acid was stirred at room temperature until a clear solution was obtained plus an additional 5 minutes. Next, the resulting mixture was concentrated in a rotary evaporator and the residue therefrom was dissolved in 10 ml of methanol. This new solution was carefully added to a suspension of 2 grams of NaHCO3 in saturated NaHCO3 solution. The pH was adjusted to 5.7 with acetic acid and the resulting mixture extracted with 5×20 ml of ethyl acetate. The combined extracts were dried (MgSO4) and then concentrated to give 3.87 grams (109% crude yield) of 4-(2-(2-thiocarbonyl-3-carboethoxypyrrolidin-4-yl)ethyl)benzoic acid as a foam which was sufficiently pure for use in Example 8. Crystalline 4-(2-(2-thiocarbonyl-3-carboethoxypyrrolidin-4-yl)ethyl)benzoic acid was obtained from chloroform. Selected data: mp 145° -148° C.; 1H NMR (DMSO-d6) δ 10.39 (s, 1H), 7.80 (d, J=8.1 Hz, 2H), 7.24 (d, J=8.1 Hz, 2H), 4.06 (q, J=7.1 Hz, 2H), 3.64 (dd, J=10.9, 8.9 Hz, 1H), 3.46 (d, J=8.5 Hz, 1H), 3.20 (dd, J=10.9, 8.0 Hz, 1H), 2.64 (q, J=8.0 Hz, 1H), 2.54 (t, J=7.4 Hz, 2H), 1.70 (m, 2H), 1.12 (t, J=7.1 Hz, 3H); 13C NMR (DMSO-d6) 198.6, 169.5, 167.0, 146.2, 129.1, 128.6, 128.1, 65.0, 60.4, 52.9, 40.8, 33.5, 32.6, 13.7; IR (CHCl3) 3410, 2985, 1732, 1694, 1517 cm-1 ; UV (EtOH) 236 nm (ε 14 900), 271 (15 600); MS(FD) m/z 321 (M+). Anal. Calcd for C16H19NO4S: C, 59.79; H, 5.96; N, 4.36. Found: C, 59.77; H, 6.00; N, 4.37.

reactant | 4-(2-[2-thiocarbonyl-3-carboethoxypyrrolidin-4-yl]ethyl)benzoic acid 2,2-dimethylethyl ester | 11.1 mmol, 4.17 grams | CC(COC(C1=CC=C(C=C1)CCC1C(C(NC1)=C=S)C(=O)OCC)=O)C | C21H27NO4S
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(2-(2-thiocarbonyl-3-carboethoxypyrrolidin-4-yl)ethyl)benzoic acid | 3.87 grams | C(=S)=C1NCC(C1C(=O)OCC)CCC1=CC=C(C(=O)O)C=C1 | C17H19NO4S
